US03992434
To a cold (5° C.) solution of 3 moles of diethanolamine in tetrahydrofuran was added dropwise a solution of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in benzene. The reaction mixture was stirred for about 1 hour, washed with water, separating the benzene layer from the aqueous layer. The benzene solution was evaporated to yieldan oil, which, after crystallization with aqueous ethanol, yielded a white solid. Small amounts of by-product compounds of Examples 1 and 3 were removed by fractional crystallization to yield N-hydroxyethyl-N-(3',5'-di-t-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-t-butyl-4-hydroxybenzamide; melting point 174°-178° C. When testedby the procedure of Example 2, the sample containing this compound lasted 1,200 hours, about 2.2 times as long as the control.

reactant | diethanolamine | 3 moles | N(CCO)CCO | C4H11NO2
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-hydroxyethyl-N-(3',5'-di-t-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-t-butyl-4-hydroxybenzamide | OCCN(C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CCOC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C34H51NO6
